US04467090
Plattner et al. and Harbert et al. also describe the earliest synthesis of flutroline: p-fluorophenylhydrazine is condensed with N-carbethoxy-4-piperidone to form 8-fluoro-2-carbethoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. By the Ullman reaction the latter is arylated to form the 5-(p-fluorophenyl) derivative and then hydrolyzed under vigorous basic conditions to yield 8-fluoro-5-(p-fluorophenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (an intermediate common to the present processes). The earlier synthesis of flutroline is completed by 2-alkylation with 3-(p-fluorobenzoyl)propyl chloride and reduction of the ketone to an alcohol group with sodium borohydride.

reactant | flutroline | C1=CC(=CC=C1C(CCCN2CCC3=C(C=4C=C(C=CC4N3C=5C=CC(=CC5)F)F)C2)O)F | C27H25F3N2O
reactant | p-fluorophenylhydrazine | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | N-carbethoxy-4-piperidone | C(=O)(OCC)N1CCC(CC1)=O | C8H13NO3
product | 8-fluoro-2-carbethoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | FC1=CC=2C3=C(NC2C=C1)CCN(C3)C(=O)OCC | C14H15FN2O2
